US05162322
3-Phenyl-5-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]-2-oxazolidinone.
Following the procedure of Example 5, a mixture of 5-(4-chlorobutyl)-3-phenyl-2-oxazolidinone (3.0 g, 0.01186 mol), 1-(2-pyrimidinyl)piperazine dihydrochloride (2.81 g, 0.01186 mol), potassium carbonate (9.85 g, 0.0713 mol), and potassium iodide (1.0 g) in n-butanol (75 mL) gave a solid (4.1 g, 91% yield). The solid was recrystallized from isopropanol/isopropyl ether and dried under high vacuum to give 2.58 g, mp 94°-96° C.

reactant | 5-(4-chlorobutyl)-3-phenyl-2-oxazolidinone | 0.01186 mol, 3.0 g | ClCCCCC1CN(C(O1)=O)C1=CC=CC=C1 | C13H16ClNO2
reactant | 1-(2-pyrimidinyl)piperazine dihydrochloride | 0.01186 mol, 2.81 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | potassium carbonate | 0.0713 mol, 9.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
solvent | n-butanol | 75 mL | C(CCC)O | C4H10O
product | 3-Phenyl-5-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]-2-oxazolidinone | 4.1 g, 91% yield | C1(=CC=CC=C1)N1C(OC(C1)CCCCN1CCN(CC1)C1=NC=CC=N1)=O | C21H27N5O2
